US07544704B2
a) 1-Ethyl-4-iodo-5-methyl-2-propyl-1H-imidazole
To a solution of 3-methyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine (Eur. J. Med. Chem. 10(5), 528, 1975; 1.85 g, 13.6 mmol) in acetic acid (50 mL) was added N-iodsuccinimide (4.28 g, 19.0 mmol) and the reaction mixture was stirred for 3 h at ambient temperature. It was concentrated and the residue extracted with aqueous sodium carbonate (sat.) and ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, dichloromethane:methanol=100:0 to 93:7) afforded the title compound (3.00 g, 84%) as a dark brown solid. MS: m/e=262.0 [M]+.

reactant | 3-methyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine | 13.6 mmol, 1.85 g | CC1=CN=C2N1CCCC2 | C8H12N2
reactant | N-iodsuccinimide | 19.0 mmol, 4.28 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 1-Ethyl-4-iodo-5-methyl-2-propyl-1H-imidazole | 3.00 g, 84% | C(C)N1C(=NC(=C1C)I)CCC | C9H15IN2
